US07585881B2
Ethyl 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-carboxylate
The title compound was prepared analogous to 3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole from ethyl 2-oxopiperidine-3-carboxylate (2.57 g, 15 mmol), Me3OBF4 (2.66 g, 18 mmol) and isonicotinic hydrazide (2.06 g, 15 mmol) in DCM (150 ml) and EtOH (16 ml). Recrystallization from EA afforded 1.67 g (41%). 1H NMR: 1.29 (t, 3 H), 2.03 (m, 1 H), 2.14-2.25 (m, 2 H), 2.32 (m, 1 H), 4.01-4.12 (m, 1 H), 4.16-4.27 (m, 4 H), 7.64 (d, 2 H), 8.74 (d, 2 H)

reactant | 3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole | N1=CC=C(C=C1)C=1N2C(=NN1)CCC2 | C10H10N4
reactant | ethyl 2-oxopiperidine-3-carboxylate | 15 mmol, 2.57 g | O=C1NCCCC1C(=O)OCC | C8H13NO3
reactant | isonicotinic hydrazide | 15 mmol, 2.06 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 16 ml | CCO | C2H6O
product | Ethyl 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyridine-8-carboxylate | N1=CC=C(C=C1)C1=NN=C2N1CCCC2C(=O)OCC | C14H16N4O2
